Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Flagyl / Shellfish / Keflex / soy milk
 
Attending: ___.
 
Chief Complaint:
Dehydration
 
Major Surgical or Invasive Procedure:
EGD ___

 
History of Present Illness:
Ms. ___ is a ___ hx ESRD of unclear etiology s/p renal 
transplant (LURT) ___ and recent diagnosis of severe 
esophagitis who presents with burning epigastric pain and 
inability to tolerate PO over the past ___ days. Since the 
patient's renal transplant in ___ she has had intermittent 
GERD symptoms which are somewhat relieved with PPI. Her symtpoms 
are epigastric burning exacerbated by spicy foods. Pt underwent 
EGD with biopsy recently where she was told she had severe 
esophagitis. Her odynophagia has been getting progressively 
worse and she has been unable to swallow secondary to pain, 
despite taking protonix 40 mg BID. She denies fevers/chills, 
chest pain, shortness of breath, hematochezia or melena. She 
denies any change in immunosuppressant medications, use of 
NSAIDs. She does report decreased urinary frequency.

In the ED, initial vitals:  97.5 116/62 91 14 100%RA
Labs were significant for: 
WBC 3.7 H/H 11.6/36.6 Plt 155
Na 139 K 3.6 Cl 104 HCO3 23 BUN 13 Cr 1.1 (baseline 1.1)
Phos 1.9
ALT 17 AST 51 AP 158 T bili 0.4 Alb 3.7 Lipase 33 

EKG - SR, rate 75, NA, NI, no acute STT 

In the ED, she received 1L NS, morphine 5 mg IV, sucralfate  1 
g, and 4 mg ondansetron.

Renal transplant was consulted and recommended admission to 
medicine given that she is unable to tolerate PO.
 
Currently,  pt reports that she still has some epigastric pain 
even without swallowing.
 
ROS:  10 point review of systems reviewed and positive per HPI, 
otherwise negative.
 
 
Past Medical History:
-s/p  Living donor renal transplant ___
-Asthma  
-Obesity s/p gastric banding  
-History of nephrolithiasis  
-Tertiary Hyperparathyroidism  
-Perianal fistula ___ abscess  
-History of ruptured appendix  
-Breast augmentation surgery.  
-GERD  

 
Social History:
___
Family History:
Mother with a history of Alzheimer's.
Father with history of cancers.
 
Physical Exam:
ADMISSION EXAM:
==============
VS:  98.1 124/65 71 18 100%RA
GEN: Well-appearing female laying in bed in NAD, pleasant 
HEENT: Moist MM, no thrush or pharyngeal exudates or erythema
NECK: Supple 
PULM: CTAB no wheezes rales or rhonchi
COR: RRR no m/r/g
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII grossly intact

DISCHARGE EXAM:
===============
VS:  98.1 116/63 58 16 100%RA
GEN: Well-appearing female sitting upright, in NAD
HEENT: Moist MM, no thrush or pharyngeal exudates or erythema
NECK: Supple 
PULM: CTAB no wheezes rales or rhonchi
COR: RRR no m/r/g
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII grossly intact
 
Pertinent Results:
ADMISSION LABS:
==============
___ 06:17PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 06:17PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 06:17PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-40 BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-MOD
___ 06:17PM URINE  RBC-18* WBC-17* BACTERIA-FEW YEAST-NONE 
EPI-3
___ 06:17PM URINE  HYALINE-9*
___ 06:17PM URINE  MUCOUS-FEW
___ 03:31PM   K+-4.2
___ 02:46PM   K+-6.5*
___ 12:50PM   GLUCOSE-73 UREA N-13 CREAT-1.2* SODIUM-136 
POTASSIUM-6.7* CHLORIDE-103 TOTAL CO2-22 ANION GAP-18
___ 12:50PM   estGFR-Using this
___ 12:50PM   ALT(SGPT)-17 AST(SGOT)-51* ALK PHOS-158* TOT 
BILI-0.4
___ 12:50PM   LIPASE-33
___ 12:50PM   ALBUMIN-3.7
___ 12:50PM   WBC-4.3 RBC-4.36 HGB-11.9 HCT-37.3 MCV-86 
MCH-27.3 MCHC-31.9* RDW-13.2 RDWSD-41.0
___ 12:50PM   NEUTS-75.9* LYMPHS-10.1* MONOS-11.2 EOS-1.9 
BASOS-0.7 IM ___ AbsNeut-3.24 AbsLymp-0.43* AbsMono-0.48 
AbsEos-0.08 AbsBaso-0.03
___ 12:50PM   NEUTS-75.9* LYMPHS-10.1* MONOS-11.2 EOS-1.9 
BASOS-0.7 IM ___ AbsNeut-3.24 AbsLymp-0.43* AbsMono-0.48 
AbsEos-0.08 AbsBaso-0.03
___ 08:40AM   GLUCOSE-89
___ 08:40AM   GLUCOSE-89
___ 08:40AM   estGFR-Using this
___ 08:40AM   ALT(SGPT)-13 AST(SGOT)-23 TOT BILI-0.4
___ 08:40AM   ALBUMIN-3.8 CALCIUM-9.8 PHOSPHATE-1.9*
___ 08:40AM   tacroFK-8.6
___ 08:40AM   WBC-3.7* RBC-4.22 HGB-11.6 HCT-36.6 MCV-87 
MCH-27.5 MCHC-31.7* RDW-13.3 RDWSD-41.8
___ 08:40AM   PLT COUNT-155

DISCHARGE LABS:
===============
___ 05:15AM BLOOD WBC-2.8* RBC-3.75* Hgb-10.0* Hct-32.1* 
MCV-86 MCH-26.7 MCHC-31.2* RDW-13.4 RDWSD-41.6 Plt ___
___ 05:15AM BLOOD Glucose-79 UreaN-7 Creat-1.0 Na-141 K-4.1 
Cl-110* HCO3-24 AnGap-11
___ 05:15AM BLOOD Calcium-9.7 Phos-2.8 Mg-1.6
___ 05:15AM BLOOD tacroFK-4.6*

MICRO:
=====
___ 5:50 am Immunology (CMV)

                            **FINAL REPORT ___

   CMV Viral Load (Final ___: 
      CMV DNA not detected. 
      Performed by Cobas Ampliprep / Cobas Taqman CMV Test. 
      Linear range of quantification: 137 IU/mL - 9,100,000 
IU/mL. 
      Limit of detection 91 IU/mL. 
      This test has been verified for use in the ___ patient 
population. 
Time Taken Not Noted     Log-In Date/Time: ___ 2:27 pm
      BIOPSY     Site: ESOPHAGUS

                            **FINAL REPORT ___

   VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Final ___: 
      REFER TO HERPES SIMPLEX VIRAL CULTURE TEST FOR RESULT. 

   CYTOMEGALOVIRUS EARLY ANTIGEN TEST (SHELL VIAL METHOD) (Final 
___: 
      Negative for Cytomegalovirus early antigen by 
immunofluorescence. 
      Refer to culture results for further information. 

   VIRAL CULTURE: R/O HERPES SIMPLEX VIRUS (Final ___: 
      HERPES SIMPLEX VIRUS TYPE 1. 
         CONFIRMED BY MONOCLONAL FLUORESCENT ANTIBODY.. 

IMAGING/STUDIES:
================
+ CXR ___
IMPRESSION: 
 
No acute cardiopulmonary abnormality.

+ ___ 10:00:00 AM - EGD report

Impression: Esophagitis in the middle third of the esophagus and 
lower third of the esophagus compatible with possible infectious 
esophagitis (biopsy, biopsy)
Previous lap band of the stomach
Otherwise normal EGD to third part of the duodenum 

+ ___ Pathology Tissue: GASTROINTESTINAL MUCOSAL BIOPSY 
PATHOLOGIC DIAGNOSIS:
Esophageal mucosal biopsies:
Severely active esophagitis with immunoreactivity of squamous 
cells with herpes simplex viruses 1 and 2 immunostain.
Immunostain for cytomegalovirus is negative for virus and PAS-D 
stain for fungal organisms is negative; both with satisfactory 
controls.
 
Brief Hospital Course:
Ms. ___ is a ___ hx ESRD (unclear etiology)s/p renal 
transplant ___ and recent diagnosis of severe esophagitis who 
presents with burning epigastric pain and inability to tolerate 
PO over the past ___ days prior to admission.

# HSV esophagitis: Patient with severe esophagitis seen on 
previous recent EGD. Fungal markers and H.pylori were negative, 
no mention of CMV/HSV, no ___ esophagus seen.  CMV stains 
on previous EGD negative. GI was consulted. The patient 
underwent repeat EGD with biopsies on ___ and in the interim was 
started on everolimus for empiric coverage for CMV, given that 
the patient had a seropositive CMV kidney donor. She had a CMV 
viral load which was negative this admission. Additionally, the 
patient's everolimus was stopped evening of ___ and Bactrim was 
stopped on ___ due to concern for pill esophagitis while the EGD 
pathology was pending. The patient's odynophagia improved with 
ganciclovir and the EGD path eventually was positive for HSV 1 
and 2. Transplant infectious disease service was consulted. She 
was transitioned to acyclovir 400 mg PO 5x/day to complete a ___y day of discharge she was able to tolerate a 
regular diet. 

# ESRD s/p renal transplant: Patient's baseline Cr 1.2-1.6. On 
admission patient had no evidence of allograft dysfunction. She 
is high risk for CMV s/p Valcyte x 6 months, CMV VL ___ 
undetectable and undetectable on this admission. She was 
maintained on the TRANSFORM study with prednisone 5 mg, tacro 4 
mg q12 (goal grough ___ and everolimus 3 mg daily (trough goal 
___ however, as above, everolimus was stopped briefly on ___ 
with plans to restart on ___. Tacrolimus dose was decreased to 
3.5 mg BID given trough levels. Patient's urine output remained 
good as she was on maintenance IVF while she was unable to take 
PO. Discharge Cr was 1.0.

# Nutrition: Patient's esophagitis prevented adequate PO intake 
for several days an nutrition was consulted. On ganciclovir her 
pain improved and she was able to tolerate Ensure and then 
eventually a regular diet. 

TRANSITIONAL ISSUES:
[] Patient will continue on acyclovir to complete a ___ mg PO 5x/day until ___.
[] Patient's everolimus was stopped evening of ___ due to 
concern for pill esophagitis; patient should resume everolimus 
on the evening of ___. Bactrim had also been stopped on ___ but 
was restarted on day of discharge.
[] Tacrolimus dose was decreased to 3.5 mg BID; last trough was 
4.9.
[] Patient should have everolimus and tacrolimus troughs drawn 
the morning of ___ or ___. 
[] Please follow up final viral cultures from EGD on ___, some 
results pending at time of discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 10 mg PO QPM 
2. Cinacalcet 30 mg PO DAILY 
3. Everolimus 3 mg PO BID 
4. Pantoprazole 40 mg PO Q12H 
5. PredniSONE 5 mg PO DAILY 
6. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
7. Acetaminophen 325 mg PO Q6H:PRN pain 
8. Calcium Carbonate 500 mg PO QID:PRN heartburn 
9. Vitamin D 1000 UNIT PO DAILY 
10. Docusate Sodium 100 mg PO BID:PRN constipation 
11. Senna 8.6 mg PO BID:PRN constipation 
12. Tacrolimus 4 mg PO Q12H 
13. Ranitidine 300 mg PO QHS 

 
Discharge Medications:
1. Acetaminophen 325 mg PO Q6H:PRN pain 
2. Atorvastatin 10 mg PO QPM 
3. Cinacalcet 30 mg PO DAILY 
4. Pantoprazole 40 mg PO Q12H 
5. PredniSONE 5 mg PO DAILY 
6. Senna 8.6 mg PO BID:PRN constipation 
7. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
8. Tacrolimus 3.5 mg PO Q12H 
9. Vitamin D 1000 UNIT PO DAILY 
10. Acyclovir 400 mg PO 5X/DAY Duration: 21 Days 
RX *acyclovir 400 mg 1 tablet(s) by mouth FIVE TIMES PER DAY 
Disp #*46 Tablet Refills:*0
11. Maalox/Diphenhydramine/Lidocaine ___ mL PO QID:PRN throat 
pain 
RX *alum-mag hydroxide-simeth 200 mg-200 mg-20 mg/5 mL ___ mL 
by mouth QID:PRN Refills:*0
12. Calcium Carbonate 500 mg PO QID:PRN heartburn 
13. Docusate Sodium 100 mg PO BID:PRN constipation 
14. Ranitidine 300 mg PO QHS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Herpes Simplex Esophagitis

Secondary diagnosis:
ESRD s/p renal transplant

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the ___ 
due to pain with swallowing. You had a repeat endoscopy and were 
found to have herpes infection of your esophagus. You will need 
to continue an oral antiviral medication until ___. 

You should start taking your everolimus again on the evening 
dose of ___. We have increased your tacrolimus level to 3.5 
mg twice daily. You should follow up with your primary care 
doctor ___ Dr. ___ below). You should also go 
in to have your blood work done (tacrolimus and everolimus 
levels) next ___ or ___ morning ___ or ___. 

Thank you for allowing us to participate in your care.

Sincerely,
Your ___ Team
 
Followup Instructions:
___